US07994185B2
Step B: N-{4-[4-(3-{[(3-Fluorophenyl)sulfonyl]amino}phenyl)-2-(1-methylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}glycine
To a solution of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-fluorobenzenesulfonamide (100 mg, 0.20 mmol) in 1-butanol (5 mL) was added glycine (153 mg, 2.0 mmol) and K2CO3 (566 mg, 4.0 mmol). The reaction was stirred at 60° C. for 16 h, then partitioned between water and EtOAc. The pH of the aqueous layer was adjusted to below 4 with 1 N HCl, and the aqueous layer was extracted with EtOAc. This organic layer was dried over anhydrous Na2SO4, filtered, and concentrated to generate the title compound as a white powder (24 mg, 0.05 mmol, 22.8% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.04 (d, J=4.5 Hz, 1H), 7.46-7.64 (m, 5H), 7.33 (t, J=8.1 Hz, 1H), 7.18-7.24 (m, 3H), 6.07 (s, 1H), 3.89 (s, 2H), 3.25-3.29 (m, 1H), 1.36 (d, J=6.7 Hz, 6H). MS (ESI): 528.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-fluorobenzenesulfonamide | 0.20 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)F | C22H18ClFN4O2S2
reactant | glycine | 2.0 mmol, 153 mg | NCC(=O)O | C2H5NO2
reactant | K2CO3 | 4.0 mmol, 566 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1-butanol | 5 mL | C(CCC)O | C4H10O
product | N-{4-[4-(3-{[(3-Fluorophenyl)sulfonyl]amino}phenyl)-2-(1-methylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}glycine | 0.05 mmol, 24 mg, 22.8% yield | FC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)NCC(=O)O)C(C)C | C24H22FN5O4S2
